Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PODIATRY
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Right foot infection
 
Major Surgical or Invasive Procedure:
___ Right foot I&D
___ Right foot I&D
___ Right foot I&D, skin graft, wound vac placement

 
History of Present Illness:
Mr. ___ is a very pleasant ___ year old man with a PMH 
significant for DMII, HTN, HCol, who presents to his PCP today 
with ___ swollen R foot, subsequently referred to the ED.

He had not seen his PCP ___ ___ years, but came ___ to his PCP 
this AM because his right foot was hot, red, warm, and painful. 
He has had pain ___ this foot for the past three weeks; he 
attributes the onset to the self-removal of a callus on the ball 
of his foot. He had noted the development of some neuropathy ___ 
his bilateral lower extremities staring a year ago. There was 
purulent discharge from his wound.

___ the ED, initial VS were 99.6 120 158/83 18 96%. Labs were 
notable for U/A with 100 Protein, 1000 Glucose, 150 Ketones. 
Electrolytes are notable for Na 129, Cl 90, Bicarb 21, Glucose 
326, and AG 18. Labs notable for WBC count 20.5, microcytic 
36.5, without bandemia. The patient was given Vancomycin 1g, 
Metronidazole 500 mg IV, and Ciprofloxacin 400 mg IV. Foot films 
showed a tib/fib WNL, a R ankel that showed normal soft tissues, 
with retro- and plantar calcaneal spurs, and a R foot with no 
signs of osteomyelitis, fracture, or significant degenerative 
joint disease. Podiatric surgery evaluated him, and debrieded 
the wound x 2. Per podiatry notes, this lesion did not probe to 
bone.
 
Per PCP records, last A1c% was 8.9 ___ ___. Baseline labs are 
notable for HDL 40, LDL 83, microalb 3.4 (elevated), Cr 0.77.

On arrival to the MICU, he is AAOx3, but tachcyardic to the 
110s.
 
Past Medical History:
DM Type II
Hypertension
Hypercholesterolemia
.
PSH:
Appendectomy

 
Social History:
___
Family History:
Father  ___ - Type II 
Mother  Cancer - ___ Hyperlipidemia
 
Physical Exam:
General: AAOx3
HEENT: Dry MM
Neck: supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no organomegaly  
Ext: warm, well perfused, 2+ pulses on the L, R foot is heaviliy 
bandaged, edema on the R foot to the mid-calf, warm
.
d/c fitals
Gen: NAD, AAOx3
CV: RRR
Pulm: No acute RD
Abd: soft, NT
UE: improved phlebitis to previous PIV sites, pulses palpable, 
no chords
___: b/l ___ pulses palpable, RLE dressing CDI to thigh & foot
 
Pertinent Results:
LABORATORY RESULTS
___ 08:26PM   LACTATE-1.1
___ 08:00PM   GLUCOSE-249* UREA N-16 CREAT-0.8 SODIUM-129* 
POTASSIUM-4.6 CHLORIDE-96 TOTAL CO2-23 ANION GAP-15
___ 08:00PM   CK(CPK)-26* AMYLASE-42
___ 08:00PM   LIPASE-38
___ 08:00PM   CK-MB-1 cTropnT-<0.01
___ 08:00PM   CALCIUM-8.4 PHOSPHATE-2.7 MAGNESIUM-2.0 
IRON-14*
___ 08:00PM   %HbA1c-13.3* eAG-335*
___ 08:00PM   WBC-18.0* RBC-3.73* HGB-10.8* HCT-29.9* 
MCV-80* MCH-28.9 MCHC-36.0* RDW-12.2
___ 08:00PM   PLT COUNT-339
RADIOLOGY
___:
Foot/ankle/tib-fib Xrays:
IMPRESSION: No signs of osteomyelitis, fracture, or significant 
degenerative joint disease. 
___:
CXR: Cardiac silhouette is within normal limits and there is no 
evidence of vascular congestion, pleural effusion, or acute 
focal pneumonia. 
___   Cardiovascular ECG: Sinus tachycardia. No previous 
tracing available for comparison. 
___   Radiology CHEST (PA & LAT): Slight increase ___ 
pulmonary and mediastinal vascular engorgement suggests 
borderline cardiac decompensation, although the heart is normal 
size and there is no pulmonary edema. There may be a tiny volume 
of pleural fluid ___ each 
side of the chest. Peribronchial opacification ___ the left lower 
lobe is 
probably atelectasis. 
___   Radiology MR FOOT ___ CONTRAST: 1. Plantar ulcer 
status post debridement one day prior with likely at least ___ 
part postoperative edema and enhancement ___ the subcutaneous 
tissues and plantar muscle compartments. Diabetic myositis and 
or infection can have similar appearance.  2. No evidence of 
osteomyelitis. 3. No abscess or drainable fluid. 
___   Cardiovascular ECHO: No vegetations or 
clinically-significant regurgitant valvular disease seen 
(adequate-quality study). Normal global and regional 
biventricular systolic function. ___ presence of high clinical 
suspicion, absence of vegetations on transthoracic 
echocardiogram does not exclude endocarditis.  
MICROBIOLOGY
___ FOOT CULTURE: WOUND CULTURE (Final 
___: 
      STREPTOCOCCUS ANGINOSUS (___) GROUP.    MODERATE 
GROWTH.

___ SWAB: GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND ___ SHORT 
CHAINS. 
      3+  ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Final ___: 
      This culture contains mixed bacterial types (>=3) so an 
abbreviated
      workup is performed. Any growth of P.aeruginosa, S.aureus 
and beta
      hemolytic streptococci will be reported. IF THESE BACTERIA 
ARE NOT
      REPORTED BELOW, THEY ARE NOT PRESENT ___ this culture.. 

___ SWAB: GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI ___ 
PAIRS. 

   WOUND CULTURE (Final ___: 
      This culture contains mixed bacterial types (>=3) so an 
abbreviated
      workup is performed. Any growth of P.aeruginosa, S.aureus 
and beta
      hemolytic streptococci will be reported. IF THESE BACTERIA 
ARE NOT
      REPORTED BELOW, THEY ARE NOT PRESENT ___ this culture.. 

   ANAEROBIC CULTURE (Preliminary): 
      ANAEROBIC GRAM NEGATIVE ROD(S).    RARE GROWTH.
BLOOD CULTURES
___ BLOOD CULTURE: Blood Culture, Routine (Final 
___: 
      STREPTOCOCCUS ANGINOSUS (___) GROUP.    FINAL 
SENSITIVITIES. 
         Sensitivity testing performed by Sensititre. 
         SENSITIVE TO CLINDAMYCIN MIC <= 0.12 MCG/ML. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STREPTOCOCCUS ANGINOSUS (___) 
GROUP
                             |   
CLINDAMYCIN-----------       S
ERYTHROMYCIN----------<=0.25 S
PENICILLIN G----------<=0.06 S
VANCOMYCIN------------   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ @ 3:10 ___ ON 
___. 
      GRAM POSITIVE COCCI ___ CHAINS. 

___ BLOOD CULTURE: Blood Culture, Routine (Final 
___: 
      STREPTOCOCCUS ANGINOSUS (___) GROUP. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         ___. 
      FUSOBACTERIUM SPECIES.    BETA LACTAMASE NEGATIVE. 

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___ PACU OVERRIDE 
LOCATION @ 12:42
      ___ ON ___. 
      GRAM NEGATIVE ROD(S). 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI ___ CHAINS. 

BLOOD CULTURES from ___ are still pending
.

___ 06:43AM BLOOD WBC-8.6 RBC-3.77* Hgb-10.3* Hct-32.4* 
MCV-86 MCH-27.2 MCHC-31.7 RDW-13.0 Plt ___
___ 07:12AM BLOOD Neuts-77* Bands-0 Lymphs-16* Monos-5 
Eos-1 Baso-0 ___ Metas-1* Myelos-0
___ 06:43AM BLOOD Glucose-92 UreaN-16 Creat-1.1 Na-137 
K-4.5 Cl-101 HCO3-30 AnGap-11
___ 06:43AM BLOOD Calcium-8.9 Phos-4.4 Mg-1.8
___ 06:43AM BLOOD Vanco-9.9*
.

 
Brief Hospital Course:
Mr. ___ is a very pleasant ___ year old man with a PMH 
significant for DMII, HTN, Hyperlipidemia, who presents to his 
PCP today with severe right leg cellulitis and a septic picture.

On ___, he was brought to the operating room; please see the 
operative report for full details.  He tolerated the procedure 
well and was transferred to the PACU with vitals stable and 
vascular status intact.  On admission he was admitted to the 
MICU but following the procedure and with stabilization of the 
pt overnight, the pt was transferred to the podiatry service.  

___ blood cultures from ___ grew back GNR and wcx showed 
preliminary GPB.  An ID consult was placed and recommended an 
echo as well as daily blood cultures.  

The pt continued to have low grade fevers as well as an elevated 
wbc.  There was no decrease ___ erythema to his foot with 
malodor, tenderness, and purulent bleeding.  The pt was brought 
back to the operating room on ___ for a further I&D; please 
see the operative report for full details.  

A rash to his PIV and perineal region was noted over the weekend 
which ID thought may be due to a drug reaction or to a fungal 
infection.  Topical antifungals did not improve the affected 
sites and changing antibiotics did not aid the area as well.  ID 
recommended a dermatology consult at this point.  

Dermatology recommended miconazole 2% cream BID to affected 
groing area, Triamcinolone 0.1% ointment to wrist & back BID, 
sarna lotion and benadryl for symptomatic relief.  

On the floors, daily wet to dry dressings were changed during 
evaluation of the RLE.  He remained afebrile at this time and 
was able to tolerate po nutrition.  Physical therapy evaluated 
the pt and stated the pt would be best served at a 
rehabilitation facility.  

The pt was brought back to the operating room ___ for a 
right foot debridement, skin graft, and wound vac placement; 
please see the operative report for full details.  

The wound vac remained on while the pt was ___ with a wound 
vac change on the ___ day.  The STSG was healing well to the 
plantar aspect of his foot, and all sutures remained intact with 
nice closure of wound edges.  His thigh STSG donor site was 
notable to be heeling well, and was changed every second day 
with a non-adherent bandage.  His wbc slowly began to trend 
downward. He remained hemodynamically stable. 

On discharge, his VSS and neurovascular status was intact to his 
RLE.  He was discharged to rehab with strict NWB to RLE, 
non-adherent dry dressing changes to affected areas qdaily, and 
followup with Dr. ___ and ID.

# Sepsis: He met ___ SIRS criteria with fevers, tachycardia, 
elevated WBC count, and an infectious source on the form of a 
diabetic foot ulcer and resultant cellulitis. He was placed on 
broad spectrum antibiotics and cultures will need to be 
followed.
.
# Hyperglycemia/DM: Likely secondary to acute infection. Does 
not appear to have DKA/HONK given modestly elevated BS, normal 
lactate, and AG of around 18. Insulin drip was started ___ the 
ICU but quickly weaned off to insulin sliding scale. Upon 
transfer to the floor he remained on ISS which normalized his 
BS.
.
# ?Osteomyelitis: Per Podiatry wound does not probe to bone, but 
ESR and CRP are markedly elevated.  Continue broad spectrum 
antibioitcs coverage with vanc/cipro/flagyl pending tissue 
culture.  Consider MRI lower extremity to assess for any 
enhancement suggestive of osteomyelitis.
.
# Anemia: HCT was 36.5 with mild microcytosis.  Iron studies 
consistent with anemia of chronic inflammation.
.
# Hyponatremia: Corrected sodium is 133 on admission.  He was 
likely volume deplete ___ the setting of infection.
.
# Anion Gap Acidosis: Likely ___ the setting of elevated blood 
sugars and lactate.  Resolved after IVF resuscitation and brief 
stint on an insulin drip ___ the ICU.
.
# Depression: Patient endorses having difficulty with his home 
medication regimen and may have some underlying depression 
making coping difficult.  Therefore, a Social Work consult was 
placed.
. 
# Communication: Patient, HCP/brother is ___
.
# Code Status: Full Code
 
Medications on Admission:
(per PCP ___ he has not filled nor taken any of these ___ the 
past year):  
Sildenafil 100 mg PRN
Lisinopril 5 mg Daily
Glyburide 10 mg Daily
Simvastatin 40 mg QHS
Omeprazole 20 mg Daily

 
Discharge Medications:
1. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
2. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. glyburide 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
4. lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

5. oxycodone 5 mg Capsule Sig: ___ Capsules PO every ___ hours 
as needed for pain: Do not drive or drink alcohol while taking 
this medication. .
Disp:*40 Capsule(s)* Refills:*0*
6. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO Q24H (every 
24 hours): Continue until ___ per ID.
Disp:*30 Tablet(s)* Refills:*2*
7. metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H (every 
8 hours): Continue until ___ per ID.
Disp:*90 Tablet(s)* Refills:*2*
8. vancomycin 1,000 mg Recon Soln Sig: One (1)  Intravenous 
twice a day: Until ___ per ID - total of 1.5.g BID.
Disp:*qs qs* Refills:*2*
9. vancomycin 500 mg Recon Soln Sig: One (1)  Intravenous twice 
a day: until ___ per ID recs - total of 1.5g BID.
Disp:*qs qs* Refills:*2*
10. heparin (porcine) 5,000 unit/mL Solution Sig: One (1)  
Injection TID (3 times a day).  
11. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
13. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for anxiety.  
14. heparin, porcine (PF) 10 unit/mL Syringe Sig: Three (3) ML 
Intravenous PRN (as needed) as needed for line flush.  
15. diphenhydramine HCl 50 mg/mL Solution Sig: One (1)  
Injection Q6H (every 6 hours) as needed for itching.  
16. triamcinolone acetonide 0.1 % Cream Sig: One (1) Appl 
Topical BID (2 times a day): Apply to hands and wrist for 5 more 
days (until ___ & to back for 7 more days (until ___.  
17. miconazole nitrate 2 % Cream Sig: One (1) Appl Topical BID 
(2 times a day): Apply to all other areas of body where rash 
persists.  
18. INSULIN
please resume your previous Insulin regimen

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right foot infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were discharged with new medications.  Please take as 
directed.  You may resume your normal home medications unless 
otherwise directed.  

You are to remain NONWEIGHT BEARING to your RIGHT FOOT at all 
times ___ a surgical shoe. Physical therapy will continue to work 
with you on your strength & balance.

Nurses ___ perform all your dressing changes.  Keep your 
dressings clean, dry, and intact.  Avoid getting your dressings 
wet.  

You may resume your normal home diet. 

If you develop any of the symptoms listed below or anything else 
concerning, please see your PCP or go to your nearest emergency 
room. 

Please keep all follow up appointments. 
 
Followup Instructions:
___